US05661150
[Referential Example 6]1-((5,6-dimethoxy-1-(3,4-dimethoxy-benzyl)-1H-indazol-3-yl)acetyl]-4-(3-chloro-2-methylphenyl)-piperazine
5,6-dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazole-3-acetic acid (41.0 g) was suspended in dichloromethane (500 ml). Then 2,2-dipyridyl disulfide (24.5 g) and triphenylphosphine (30.0 g) were added thereto and the mixture was stirred at room temperature. Next, (3-chloro-2-methyl-phenyl)piperazine (23.5 g) dissolved in dichloromethane (200 ml) was dropped thereinto within 5 minutes and the mixture was stirred at room temperature for 30 minutes. Then dichloromethane (1000 ml) was added to the reaction mixture. After washing with water, the organic layer was dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue thus obtained was purified by using a silica gel column (ethyl acetate/hexane=2/1, silica gel 2 kg) to give 61.5 g of a colorless solid. This solid product was used in the subsequent reaction without purification. A small amount of this product was taken and recrystallized from ethanol. Thus colorless prism crystals (m.p.: 165°-169° C.) were obtained.

reactant | 5,6-dimethoxy-1-(3,4-dimethoxybenzyl)-1H-indazole-3-acetic acid | 41.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CC(=O)O | C20H22N2O6
reactant | triphenylphosphine | 30.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3-chloro-2-methyl-phenyl)piperazine | 23.5 g | ClC=1C(=C(C=CC1)N1CCNCC1)C | C11H15ClN2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 1-((5,6-dimethoxy-1-(3,4-dimethoxy-benzyl)-1H-indazol-3-yl)acetyl]-4-(3-chloro-2-methylphenyl)-piperazine | 61.5 g | COC=1C=C2C(=NN(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CC(=O)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C | C31H35ClN4O5
